US04022795
4-Bromo-2,6-dimethylaniline (24.0 parts), 3% palladium on charcoal (50% paste; 2.0 parts), cetyltrimethylammonium bromide (4.0 parts), sodium hydroxide liquor (32%; 13.5 parts), sodium formate (6.8 parts) in water (60 parts) are stirred at the boil under reflux for 3 hours. Sodium formate (6.8 parts is then added and the mixture boiled for 3 hours when a further charge of sodium formate (6.8 parts) is made. The reaction mixture is then held at the boil under reflux for a further 23 hours. The mixture is then steam distilled and from the distillate 2.2 parts (18.2%) of 2,6-dimethylaniline is recovered by extraction with ether. The reaction mixture after steam distillation is cooled to room temperature and then filtered. The residue is extracted continuously with methanol (60 parts) for 5 hours and then the extract cooled. The colourless crystalline precipitate is filtered off and dried to give 7.7 parts (63.3%) of 3,3',5,5'-tetramethyl benzidine.

reactant | 4-Bromo-2,6-dimethylaniline | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium formate | C(=O)[O-].[Na+]
catalyst | palladium on charcoal | [Pd] | Pd
catalyst | cetyltrimethylammonium bromide | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | water | O | H2O
product | 3,3',5,5'-tetramethyl benzidine | 63.3% | CC=1C=C(C=C(C1N)C)C1=CC(=C(N)C(=C1)C)C | C16H20N2
